US08242104B2
Step 3: 2-(1-trityl-1H-imidazol-2-yl)ethanol
Crude 2-(1-trityl-1H-imidazol-2-yl)acetaldehyde (2.025 g (5.75 mmol) was dissolved in MeOH/THF (1:1, 40 ml) and NaBH4 (0.435 g, 11.5 mmol) was added portionwise to the above mixture. The mixture was stirred for 18 hours, diluted with 100 ml of water and extracted with 2×DCM. The combined organic extracts were washed with water, brine, dried over Na2SO4 and concentrated in vacuum. Weight of the residue 1.915 g (94%). 1H NMR (500 MHz, CDCl3) δ 7.35-7.31 (m, 9H), 7.12 (dd, J=6.7, 2.7, 6H), 6.93 (d, J=1.0, 1H), 6.74 (d, J=1.0, 1H), 5.04 (br, 1H), 3.46 (t, J=5.4, 2H), 2.00 (t, J=5.4, 2H).

reactant | 2-(1-trityl-1H-imidazol-2-yl)acetaldehyde | C(C1=CC=CC=C1)(C1=CC=CC=C1)(C1=CC=CC=C1)N1C(=NC=C1)CC=O | C24H20N2O
reactant | NaBH4 | 11.5 mmol, 0.435 g | [BH4-].[Na+]
solvent | MeOH THF | 40 ml | CO.C1CCOC1
solvent | water | 100 ml | O | H2O
product | 2-(1-trityl-1H-imidazol-2-yl)ethanol | C(C1=CC=CC=C1)(C1=CC=CC=C1)(C1=CC=CC=C1)N1C(=NC=C1)CCO | C24H22N2O
